US05116829
9-Fluoro-21-(2-formylamino-1-oxobutylthio)-11β,17-dihydroxy-16β-methylpregna-1,4-diene-3,20-dione (Compound No. 11)
The title compound (0.28 gm) was prepared from 9-fluoro-11β,17-dihydroxy-16β-methylpregna-1,4-diene-3,20-dione-21-thiol (0.5 gm) and N-formyl-L-methionine (0.76 gm) in the same manner as in Synthetic Example 1.

reactant | 9-fluoro-11β,17-dihydroxy-16β-methylpregna-1,4-diene-3,20-dione-21-thiol | 0.5 gm | F[C@@]12[C@]3(C=CC(C=C3CC[C@H]1[C@@H]1C[C@@H]([C@](C(CS)=O)([C@]1(C[C@@H]2O)C)O)C)=O)C | C22H29FO4S
reactant | N-formyl-L-methionine | 0.76 gm | C(=O)N[C@@H](CCSC)C(=O)O | C6H11NO3S
product | 9-Fluoro-21-(2-formylamino-1-oxobutylthio)-11β,17-dihydroxy-16β-methylpregna-1,4-diene-3,20-dione | 0.28 gm | F[C@@]12[C@]3(C=CC(C=C3CC[C@H]1[C@@H]1C[C@@H]([C@](C(CSC(C(CC)NC=O)=O)=O)([C@]1(C[C@@H]2O)C)O)C)=O)C | C27H36FNO6S
